US04879313
B. Boc-Asp(OBzl)-2-(4-methoxyphenyl)ethyl amide
Boc-Asp(OBzl)-OH (38.8 g; 0.12 Mole) was dissolved in CH2Cl2 (250 ml) and cooled in a dry ice/acetone bath. DCC (24.75 g; 0.12 Mole) dissolved in CH2Cl2 (50 ml) was added slowly. After stirring for 10 minutes 4-methoxyphenylethyl amine (15.1 g; 0.1 Mole) was added dropwise and stirring was continued for another hour at room temperature. The mixture was filtered and the filtrate was washed with saturated NaHCO3 solution (×50 ml) and 1N HCl (50 ml). The organic phase was dried over sodium sulfate and evaporated to an oil. Yield: 41.5 g; FAB-MS: (M+Li)=463.

reactant | Boc-Asp(OBzl)-OH | 0.12 Mole, 38.8 g | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C16H21NO6
reactant | DCC | 0.12 Mole, 24.75 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-methoxyphenylethyl amine | 0.1 Mole, 15.1 g | COC1=CC=C(C=C1)CCN | C9H13NO
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Boc-Asp(OBzl) 2-(4-methoxyphenyl)ethyl amide | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C.COC1=CC=C(C=C1)CC[NH-] | InChI=1S/C16H21NO6.C9H12NO/c1-16(2,3)23-15(21)17-12(14(19)20)9-13(18)22-10-11-7-5-4-6-8-11;1-11-9-4-2-8(3-5-9)6-7-10/h4-8,12H,9-10H2,1-3H3,(H,17,21)(H,19,20);2-5,10H,6-7H2,1H3/q;-1/t12-;/m0./s1
